US06008243
To a solution of 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl) 1H-pyrrol-3-yl]-2-hydroxy-ethanone (867 mg, 1.86 mmol) in dry pyridine (5 mL) was added acetic anhydride (0.42 mL, 4.5 mmol). After 4.5 hours at ambient temperature, the mixture was partitioned between 1N aqueous NaHSO4 (25 mL) and EtOAc (25 mL). The EtOAc layer was washed with 1N pH 7 phosphate buffer (25 mL) two times, H2O (25 mL), and brine (25 mL), dried over Na2SO4, and evaporated to give 0.91 g (100%) of 2-acetoxy-1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl)-1H-pyrrol-3-yl]-ethanone as an amorphous solid that was used without further purification. An analytical sample was obtained upon flash column chromatography with 0-2% EtOAc/CH2Cl2 gradient eluent. 1H NMR: δ 7.65 (d, 2H, J=8.5 Hz), 7.62 (d, 2H, J=7.0 Hz), 7.48-7.24 (m, 1H), 7.10 (t, 1H, J=2.6 Hz), 6.46 (dd, 1H, J=1.7, 2.8 Hz), 6.25 (s, 1H), 3.98-3.93 (m, 1H), 3.81 (d, 1H, J=9.2 Hz), 3.64-3.60 (m, 1H), 3.42 (d, 1H, J=13.6 Hz), 2.96 (dd, 1H, J=11.6, 13.8 Hz), 2.22 (s 3H), 1.78 (s, 3H), 1.55 (s, 3H). Anal. Calculated for C32H32N2O4 : C, 75.57; H, 6.34; N, 5.51. Found: C, 75.47; H, 6.37; N, 5.45.

reactant | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl) 1H-pyrrol-3-yl]-2-hydroxy-ethanone | 1.86 mmol, 867 mg | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(C(O)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H30N2O3
reactant | acetic anhydride | 4.5 mmol, 0.42 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-acetoxy-1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl)-1H-pyrrol-3-yl]-ethanone | 0.91 g, 100% | C(C)(=O)OC(C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)(C)C)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C32H32N2O4
